US04720493
To a solution of 40 g of 2-acetylaminomethylthiophene and 30.3 g of acetylchloride in 600 ml of dichloroethane is added a small portion of 76.3 g of anhydrous aluminum chloride under cooling at 5°-10° C. After the mixture is stirred at 10° C. for 30 minutes and poured into ice-cold water, the precipitated crystals are collected by filtration to give 2-acetylaminomethyl-5-acetylthiophene, melting F- at 129°-130° C.

reactant | 2-acetylaminomethylthiophene | 40 g | C(C)(=O)NCC=1SC=CC1 | C7H9NOS
reactant | acetylchloride | 30.3 g | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 76.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloroethane | 600 ml | ClC(C)Cl | C2H4Cl2
product | 2-acetylaminomethyl-5-acetylthiophene | C(C)(=O)NCC=1SC(=CC1)C(C)=O | C9H11NO2S
